US05932601
In substantially the same manner as in Working Example 9, 5-[3-(4-hydroxy-3-methoxyphenyl)propyl]-2,4-oxazolidinedione was reacted with 5-chloromethyl-3-phenyl-1,2,4-oxadiazole to obtain 5-[3-[3-methoxy-4-(3-phenyl-1,2,4-oxadiazol-5-ylmethoxy)phenyl]propyl]-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.110-111° C.

reactant | 5-[3-(4-hydroxy-3-methoxyphenyl)propyl]-2,4-oxazolidinedione | OC1=C(C=C(C=C1)CCCC1C(NC(O1)=O)=O)OC | C13H15NO5
reactant | 5-chloromethyl-3-phenyl-1,2,4-oxadiazole | ClCC1=NC(=NO1)C1=CC=CC=C1 | C9H7ClN2O
product | 5-[3-[3-methoxy-4-(3-phenyl-1,2,4-oxadiazol-5-ylmethoxy)phenyl]propyl]-2,4-oxazolidinedione | COC=1C=C(C=CC1OCC1=NC(=NO1)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C22H21N3O6
